US04551452
4-[1-(Hexyloxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 11, piroxicam (3.00 g, 9.1 mmol) and alpha-chloroethyl hexyl carbonate (2.85 g, 13.6 mmol) were converted to chromatographed title product, isolated as a yellow solid which was crystallized from isopropyl alcohol/hexane (280 mg, 0.5 mmol, 6.1%): mp 86°-87° C.; IR (KBr) 1764, 1678 cm-1 ; 1H NMR (CCl3) delta 0.87 (t, J=7 Hz, 3H), 1.05-1.39 (m, 6H), 1.41-1.60 (m, 2H), 1.75 (d, J=6 Hz, 3H), 3.10 (s, 3H), 4.00 (t, J=7 Hz, 2H), 6.36 (q, J=6 Hz, 1H), 7.06-7.17 (m, 1H), 7.63-7.86 (m, 5H), 8.31-8.42 (m, 2H), 9.39 (br s, 1H); precise mass calcd for C24H29N3O7S m/e 503.1737, found 503.1761.

reactant | piroxicam | 9.1 mmol, 3.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | alpha-chloroethyl hexyl carbonate | 13.6 mmol, 2.85 g | C(OC(C)Cl)(OCCCCCC)=O | C9H17ClO3
reactant | isopropyl alcohol hexane | 0.5 mmol, 280 mg | C(C)(C)O.CCCCCC
reactant | KBr | [K+].[Br-]
product | 4-[1-(Hexyloxycarbonyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(CCCCC)OC(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C24H29N3O7S
